US04740612
In similar way to that in Stage IV-1 Example 3 above except that 5 g of methyl 2,2-dimethyl-3-(2',2',2'-trichloroethyl)-cyclopropanecarboxylate (purity: 95.8%, cis/trans: 92.7/7.3) were added to a mixture of 4 g of sodium hydroxide, 20 ml of methanol and 30 ml of water to heat the resulting mixture for 10 hours under reflux, 3.31 of 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylic acid, cis/trans ratio 98.8/1.2, purity 96.4%, yield 81.7% were obtained.

reactant | methyl 2,2-dimethyl-3-(2',2',2'-trichloroethyl)-cyclopropanecarboxylate | 5 g | CC1(C(C1CC(Cl)(Cl)Cl)C(=O)OC)C | C9H13Cl3O2
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropanecarboxylic acid | yield 81.7% | CC1(C(C1C=C(Cl)Cl)C(=O)O)C | C8H10Cl2O2
